US04260779
A solution of 50 g of 2,3-dihydro-2-oxo-benzo[b]thiophene in 200 ml of hexamethylphosphoric acid triamide is added dropwise to a suspension of 16 g of a 50% strength sodium hydride/mineral oil dispersion in 500 ml of hexamethylphosphoric acid triamide, whilst cooling, the temperature being kept below 15°. After stirring for one hour at room temperature, 77 g of phenyl N-(2-fluorophenyl)-carbamate are added in portions, with external cooling. The reaction mixture is stirred for a further 16 hours at room temperature and poured into a mixture of 300 ml of 2 N hydrochloric acid and 3,000 ml of ice water. An oil separates out and this crystallises after about 2 hours. The crystalline product, in which solvent is incorporated, is dissolved in 1,000 ml of diethyl ether and the solution is washed with water. The organic phase is separated off, dried over sodium sulphate and evaporated to dryness. The crude product is recrystallised from diethyl ether and gives N-(2-fluorophenyl)-2-oxo-2,3-dihydro-3-benzo[b]thiophenecarboxamide, melting point 155°-156°.

reactant | 2,3-dihydro-2-oxo-benzo[b]thiophene | 50 g | O=C1CC2=C(S1)C=CC=C2 | C8H6OS
reactant | sodium hydride | [H-].[Na+]
reactant | phenyl N-(2-fluorophenyl)-carbamate | 77 g | FC1=C(C=CC=C1)NC(OC1=CC=CC=C1)=O | C13H10FNO2
reactant | hydrochloric acid | 2 N, 300 ml | Cl | ClH
solvent | hexamethylphosphoric acid triamide | 200 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoric acid triamide | 500 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | N-(2-fluorophenyl)-2-oxo-2,3-dihydro-3-benzo[b]thiophenecarboxamide | FC1=C(C=CC=C1)NC(=O)C1C2=C(SC1=O)C=CC=C2 | C15H10FNO2S
